US05182263
A solution of benzyl 2-(4-bromophenyl)acetate (33.5 g, 0.11 mol), t-butyl acrylate (31.6 mL, 0.22 mol) and triethylamine (85 mL, 0.64 mol) in DMF (1000 mL) was deoxygenated with argon, whereupon bis(triphenylphosphine)palladium dichloride (5.1 g, 8.3 mmol) was added. After heating at 75° C. for 12 hours the solvent was removed in vacuo providing a brown residue that was purified by chromatography on silica gel using a mixture of hexanes and ethyl acetate (9:1) to give benzyl (E)-2-[4-[3-(1,1-dimethylethoxy)-3-oxo-1-propenyl]phenyl]acetate as a pale yellow oil (23.3 g, 0.07 mol) in 60% yield.

reactant | benzyl 2-(4-bromophenyl)acetate | 0.11 mol, 33.5 g | BrC1=CC=C(C=C1)CC(=O)OCC1=CC=CC=C1 | C15H13BrO2
reactant | t-butyl acrylate | 0.22 mol, 31.6 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | triethylamine | 0.64 mol, 85 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1000 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium dichloride | 8.3 mmol, 5.1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | benzyl (E)-2-[4-[3-(1,1-dimethylethoxy)-3-oxo-1-propenyl]phenyl]acetate | 0.07 mol, 23.3 g, 60% yield | CC(C)(OC(/C=C/C1=CC=C(C=C1)CC(=O)OCC1=CC=CC=C1)=O)C | C22H24O4
